### PR TITLE
exp -> pow (wip)

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

see minutes https://github.com/math-comp/math-comp/wiki/Minutes-2026-01-21

reboot of https://github.com/math-comp/math-comp/pull/1503

done so far:

```
### Renamed

- in `algebra.v`:
  + `exp` -> `pow`
  + `exprM` -> `powrMn`
  + `expr1n` -> `pow1rn`
  + `exprMn_comm` -> `powMrn_comm`
  + `exprMn` -> `powMrn`
  + `exprMn_n` -> `powrMn_n`
  + `expr0n` -> `pow0rn`
  + `exprD` -> `powrDn`
  + `exprDn_comm` -> `powDrn_comm`
  + `exprDn` -> `powDrn`
  + `expr0` -> `powr0n`
  + `expr1` -> `powr1n`
  + `expr2` -> `powr2n`
  + `exprS` -> `powrS`
  + `exprSr` -> `powrSr`
  + `expr_sum` -> `powr_sum`
  + `exprAC` -> `powrAC`
  + `expr_mod` -> `powr_mod`
  + `expr_dvd` -> `powr_dvd`
```

memo for later:

TODO: `powrMz` `x ^ (n * m)` with `n m : int`

TODO:
```
- in `algebra.v`:
  + lemma `exprZn`
- in `divalg.v`:
  + lemma `exprVn`
- in `matrix.v`:
  + lemma `exp_block_diag_mx` 
- in `ssrint.v`:
  + lemma `exprnP`
- in `finfield.v`:
  + lemma `expf_card`
- in `poly.v`:
  + lemma `prim_expr_mod`
```

##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/alg/algebra.v [hunk 1]
```diff
@@ -765,21 +765,23 @@ Lemma expr2 x : x ^+ 2 = x * x. Proof. by []. Qed.
...
 Proof. by case: n => // n; rewrite exprS mul0r. Qed.
 
-Lemma expr1n n : 1 ^+ n = 1 :> R.
+Lemma pow1rn n : 1 ^+ n = 1 :> R.
 Proof. by elim: n => // n IHn; rewrite exprS mul1r. Qed.
 
-Lemma exprD x m n : x ^+ (m + n) = x ^+ m * x ^+ n.
+Lemma powrDn x m n : x ^+ (m + n) = x ^+ m * x ^+ n.
 Proof. by elim: m => [|m IHm]; rewrite ?mul1r // !exprS -mulrA -IHm. Qed.
+#[deprecated(since="mathcomp 2.6.0", note="renamed to `powrDn`")]
```
Comment (pi8027) [inline algebra/alg/algebra.v]:
```suggestion
#[deprecated(since="mathcomp 2.6.0", use=powrDn)]
```

File: algebra/matrix.v [hunk 2]
```diff
@@ -5051,7 +5051,7 @@ set V := @Vandermonde R.
 elim: n => [|n IHn] in a *; first by rewrite det_mx00 big1// => -[] [].
 pose b : 'rV_n := \row_i a 0 (lift 0 i).
 pose C : 'M_n := diag_mx (\row_(i < n) (b 0 i - a 0 0)).
-pose D : 'M_n.+1 := 1 - a 0 0 *: \matrix_(i, j) (i == j.+1 :> nat)%:R. 
+pose D : 'M_n.+1 := 1 - a 0 0 *: \matrix_(i, j) (i == j.+1 :> nat)%:R.
```
Comment (pi8027) [inline algebra/matrix.v:5054]: Please avoid making unrelated changes to make the review process easier.

File: algebra/poly.v [hunk 3]
```diff
@@ -2633,10 +2633,12 @@ by have [mn|/ltnW mn] := leqP m n;
...
 
 Lemma drop_polyMXn_id n p : drop_poly n (p * 'X^ n) = p.
-Proof. by rewrite drop_polyMXn subnn drop_poly0l expr0 mulr1. Qed.
+Proof. by rewrite drop_polyMXn subnn drop_poly0l powr0n mulr1. Qed.
 
 Lemma drop_polyDMXn n p q : size p <= n -> drop_poly n (p + q * 'X^n) = q.
-Proof. by move=> ?; rewrite drop_polyD drop_poly_eq0// drop_polyMXn_id add0r. Qed.
+Proof.
+by move=> ?; rewrite drop_polyD drop_poly_eq0// drop_polyMXn_id add0r.
+Qed.
```
Comment (pi8027) [inline algebra/poly.v:2641]: Same here

File: algebra/alg/algebra.v [hunk 4]
```diff
@@ -758,28 +758,36 @@ Definition natr_sum := big_morph (natmul 1) natrD (mulr0n 1).
...
 Proof. by rewrite mulrnA mulr_natr. Qed.
 
-Lemma expr0 x : x ^+ 0 = 1. Proof. by []. Qed.
-Lemma expr1 x : x ^+ 1 = x. Proof. by []. Qed.
-Lemma expr2 x : x ^+ 2 = x * x. Proof. by []. Qed.
+Lemma powr0n x : x ^+ 0 = 1. Proof. by []. Qed.
+#[deprecated(since="mathcomp 2.6.0", use=powr0n)]
+Definition expr0 := powr0n.
+Lemma powr1n x : x ^+ 1 = x. Proof. by []. Qed.
+Lemma powr2n x : x ^+ 2 = x * x. Proof. by []. Qed.
```
Comment (pi8027) [inline algebra/alg/algebra.v:765]: The deprecation constants/abbreviations for these lemmas have to be declared in both `GRing` and `GRing.Theory`. You need the same thing as `#[deprecated(...)]Definition expr0 := ...` for `expr1`, `expr2`, and the renamed lemmas below.

File: algebra/matrix.v (hunk 2 above)
Comment (proux01) [reply algebra/matrix.v:5054]: Maybe they can be isolated in a separate commit?

Comment (pi8027) [reply algebra/matrix.v:5054]: Yes, but I may still prefer to merge these unrelated changes separately if I'm the one who reviews this PR.

Comment (affeldt-aist) [reply algebra/matrix.v:5054]: I am just removing a trailing space!

File: algebra/poly.v (hunk 3 above)
Comment (affeldt-aist) [reply algebra/poly.v:2641]: I think you exaggerate.

Comment (pi8027) [reply algebra/poly.v:2641]: No. The diff is already about 500 lines long, and many deprecations still seem missing. Larger PRs obviously take more reviewing effort.

File: algebra/matrix.v (hunk 2 above)
Comment (proux01) [reply algebra/matrix.v:5054]: Would putting these changes in a separate commit be an acceptable middleground? It is easier to do than a separate branch/PR while enabling the reviewer to not stumble on them in the middle of the review by doing the review on a per commit basis (of course this requires to keep changes in meaningful commit, but it's good for the commit history anyway).

Comment (affeldt-aist) [reply algebra/matrix.v:5054]: I can do that if I have time. But, come on, in the end there will be maybe 2, 3 trailing spaces removed, and only a few lines getting longer/shorter as a consequence of the renaming. The point of the PR is the renaming.

File: algebra/poly.v (hunk 3 above)
Comment (affeldt-aist) [reply algebra/poly.v:2641]: Ok, then I am thinking about closing this PR now because new requirements keep on popping along the way while we need to stay on track.

File: algebra/matrix.v (hunk 2 above)
Comment (pi8027) [reply algebra/matrix.v:5054]: Targeting the next milestone while knowing that we need to release soon implies that the review has to be done in a rush. So, I asked you to make the review process easier. IMO, asking the reviewer to do the work in a rush is unreasonable (though it was rather implicit), and "having no time" is not a right excuse for moving the burden from the author to the reviewer.

Comment (CohenCyril) [reply algebra/matrix.v:5054]: > Targeting the next milestone while knowing that we need to release soon implies that the review has to be done in a rush. So, I asked you to make the review process easier. IMO, asking the reviewer to do the work in a rush is unreasonable (though it was rather implicit), and "having no time" is not a right excuse for moving the burden from the author to the reviewer.

In such cases, there is not much of distinction between author and reviewer. Reynald was implementing a choice we decided together, there is absolutely no reason why he should "carry the burden" for all of us.

Comment (CohenCyril) [reply algebra/matrix.v:5054]: @pi8027 you are making a lot of assumptions here, and you did not respect the explicit message I sent to refrain commenting on a draft PR.
